US07345056B2
To a stirring mixture of 9-(4-chloro-benzenesulfonyl)-9-aza-bicyclo[3.3.1]nonan-3-one (550 mg, 1.75 mmol) in THF (2 mL) at −78° C. was added LiHMDS in THF (2.62 mL, 1.0 M in THF, 2.62 mmol) dropwise over 15 min. The resulting mixture was allowed to stir at −78° C. for 30 min before the addition of MeI (1.24 g, 8.75 mmol). The reaction mixture was stirred at −78° C. for 2.5 h before it was allowed to warm up to room temperature for 15 min. The reaction mixture was quenched by the addition of a saturated aqueous NH4Cl solution (25 mL) and EtOAc (25 mL). The layers were separated and the aqueous layer was extracted with EtOAc (2×25 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated under reduced pressure. The crude mixture was purified via silica gel chromatography to give 9-(4-chloro-benzenesulfonyl)-2-methyl-9-aza-bicyclo[3.3.1]nonan-3-one as a white solid. Retention time (min)=2.13 min, Method [1], MS (ESI) 350 (M+Na).

reactant | 9-(4-chloro-benzenesulfonyl)-9-aza-bicyclo[3.3.1]nonan-3-one | 1.75 mmol, 550 mg | ClC1=CC=C(C=C1)S(=O)(=O)N1C2CC(CC1CCC2)=O | C14H16ClNO3S
reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | MeI | 8.75 mmol, 1.24 g | CI | CH3I
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2.62 mmol, 1.0 M, 2.62 mL | C1CCOC1 | C4H8O
product | 9-(4-chloro-benzenesulfonyl)-2-methyl-9-aza-bicyclo[3.3.1]nonan-3-one | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C(C(CC1CCC2)=O)C | C15H18ClNO3S
